US08168667B2
BP: Methyl 2-(4-hydroxyphenyl)-2-[(thiophen-3-yl)methylamino]acetate
5 g of methyl(R)-amino-(4-hydroxyphenyl)acetate hydrochloride and 100 mL of anhydrous ethyl acetate (thick suspension) are introduced at ambient temperature into a 500 mL Woulff bottle equipped with a nitrogen intake, a magnetic stirrer and a condenser. 3.1 mL of triethylamine, some magnesium sulphate and 3 g of thiophene-3-carbaldehyde are added. After 4 hours under reflux, the white solid is filtered, washed with ethyl acetate and dried under vacuum. The product is taken up in 100 mL of anhydrous dichloromethane. 14 g of sodium triacetoxy borohydride are added and the mixture is stirred at ambient temperature for 2 hours. 100 mL of methanol are added then the reaction mixture is concentrated. The product is extracted with ethyl acetate. It is washed with water then the organic phases are dried over magnesium sulphate. The mixture is concentrated, and the residue is purified over a silica column with 50/50 heptane/ethyl acetate. After concentration and crystallisation in isopropanol, a white solid is obtained (2.35 g; Yd=37%).

reactant | methyl(R)-amino-(4-hydroxyphenyl)acetate hydrochloride | 5 g | Cl.N[C@@H](C(=O)OC)C1=CC=C(C=C1)O
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | thiophene-3-carbaldehyde | 3 g | S1C=C(C=C1)C=O | C5H4OS
solvent | triethylamine | 3.1 mL | C(C)N(CC)CC | C6H15N
product | Methyl 2-(4-hydroxyphenyl)-2-[(thiophen-3-yl)methylamino]acetate | OC1=CC=C(C=C1)C(C(=O)OC)NCC1=CSC=C1 | C14H15NO3S
